US08685969B2
5. (E)-Benzyl 2-methyl-3-(2-nitrovinyl)phenylcarbamate
A mixture of benzyl 3-formyl-2-methylphenylcarbamate (4.968 g, 18.45 mmol), nitromethane (2.478 mL, 46.1 mmol), and ammonium acetate (3.56 g, 46.1 mmol) in acetic acid (70 mL, 1223 mmol) was heated at 90° C. for 4.5 hr. The acetic acid was removed under vacuum. To the residue was added water (100 mL), and the mixture was stirred at room temperature for 30 min. The insoluble material was collected with suction filtration. The filter cake was mixed with water (100 mL) and the aqueous mixture was adjusted to pH 9 with saturated NaHCO3 solution and stirred at room temperature for 30 min. The insoluble product (4.13 g, 88% purity, 13.22 mmol, 71.7% yield) was collected as a yellow solid with suction filtration and dried over Drierite under vacuum.

reactant | benzyl 3-formyl-2-methylphenylcarbamate | 18.45 mmol, 4.968 g | C(=O)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C16H15NO3
reactant | nitromethane | 46.1 mmol, 2.478 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 46.1 mmol, 3.56 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 1223 mmol, 70 mL | C(C)(=O)O | C2H4O2
product | (E)-Benzyl 2-methyl-3-(2-nitrovinyl)phenylcarbamate | 71.7% yield | CC1=C(C=CC=C1\C=C\[N+](=O)[O-])NC(OCC1=CC=CC=C1)=O | C17H16N2O4
